US07723330B2
Step B: Preparation of (4-(4-amino-2-fluorophenoxy)-1H-pyrazolo[3,4-b]pyridin-3-yl)(4-methylpiperazin-1-yl)methanone:
3-Fluoro-4-(3-iodo-1H-pyrazolo[3,4-b]pyridin-4-yloxy)aniline (30 mg, 0.0811 mmol) was dissolved in DMF (1 mL), and 1-methylpiperazine (0.045 ml, 0.405 mmol) and 1,1′-bis(diphenylphosphino) ferrocenedichloropalladium(II) (6.67 mg, 0.0081 mmol) were added. The reaction mixture was purged with N2(g) followed by CO(g) and then held under balloon pressure of CO(g). The mixture was stirred at 70° C. for 18 hours. The crude mixture was partitioned between ethyl acetate and water. The organic layer washed with brine, dried over Na2SO4 and evaporated to afford crude product. The residue was purified by silica gel column chromatography (Biotage 12M) eluting with 5% MeOH/CHCl3 to afford the desired product. Yield: 14 mg at 80% purity, 37%. LRMS (APCI pos) m/e 371.1 (M+H).

reactant | 3-Fluoro-4-(3-iodo-1H-pyrazolo[3,4-b]pyridin-4-yloxy)aniline | 0.0811 mmol, 30 mg | FC=1C=C(N)C=CC1OC1=C2C(=NC=C1)NN=C2I | C12H8FIN4O
reactant | 1-methylpiperazine | 0.405 mmol, 0.045 ml | CN1CCNCC1 | C5H12N2
reactant | DMF | 1 mL | CN(C)C=O | C3H7NO
catalyst | 1,1′-bis(diphenylphosphino) ferrocenedichloropalladium(II) | 0.0081 mmol, 6.67 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (4-(4-amino-2-fluorophenoxy)-1H-pyrazolo[3,4-b]pyridin-3-yl)(4-methylpiperazin-1-yl)methanone | NC1=CC(=C(OC2=C3C(=NC=C2)NN=C3C(=O)N3CCN(CC3)C)C=C1)F | C18H19FN6O2
